US07576115B2
2) Synthesis of 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-thiophenecarboxylic acid
From 1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (40.0 mg, 0.15 mmol) and 5-hydrazinocabonothioylamino-2-thiophenecarboxylic acid (35.5 mg, 0.15 mmol), the desired product was obtained in the same manner as in Synthetic Example 2 as a yellow solid (57.3 mg, yield 83%).

reactant | 1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.15 mmol, 40.0 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C16H20N2O2
reactant | 5-hydrazinocabonothioylamino-2-thiophenecarboxylic acid | 0.15 mmol, 35.5 mg | N(N)C(=S)NC1=CC=C(S1)C(=O)O | C6H7N3O2S2
product | 5-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)-carbonothioyl]amino}-2-thiophenecarboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC=C(S1)C(=O)O)O | C22H25N5O3S2
